US03951959
rac.-1,3-Dimethoxy-17β-acetoxy-8α-estra-1,3,5(10)-triene
A solution of 60 mg. of rac.-1,3-dimethoxy-8α-estra-1,3,5(10)-trien-17-one in 3 ml. of ethanol and 1.0 ml. of THF is gradually combined at room temperature with 60 mg. of NaBH4 and agitated for 30 minutes under N2 and at room temperature. The reaction mixture is neutralized with glacial acetic acid, concentrated, taken up in ether, washed neutral with saturated NaCl solution, dried, and evaporated. The residue is dissolved in 1 ml. of pyridine, the solution is mixed with 0.5 ml. of acetic anhydride and maintained for 1 hour at 80° C. under N2. After cooling, the mixture is introduced into ice water; the precipitate is filtered off and taken up in ether. The ether solution is washed neutral with saturated NaCl solution, dried, and evaporated. Recrystallization from methanol over carbon yields 42 mg. of product, m.p. 131°-134° C.

reactant | rac.-1,3-dimethoxy-8α-estra-1,3,5(10)-trien-17-one | COC1=CC(=CC=2CC[C@@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C12)=O)OC | C20H26O3
reactant | ethanol | C(C)O | C2H6O
reactant | THF | C1CCOC1 | C4H8O
reactant | NaBH4 | [BH4-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | rac.-1,3-Dimethoxy-17β-acetoxy-8α-estra-1,3,5(10)-triene | COC1=CC(=CC=2CC[C@@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C12)OC(C)=O)OC | C22H30O4
